US07700641B2
Synthesis of tert-butyl 3-(2′-oxo-1′-{[5-(trifluoromethyl)-2-furyl]methyl}-1′,2′-dihydrospiro[1-benzofuran-3,3′-indol]-5-yl)piperidine-1-carboxylate
Following the procedure as described in PREPARATION 1A, and making non-critical variations using tert-butyl 3-(2′-oxo-1′,2′-dihydrospiro[1-benzofuran-3,3′-indol]-5-yl)piperidine-1-carboxylate to replace 4-bromoindole, and 2-(bromomethyl)-5-(trifluoromethyl)furan to replace 1-bromopentane, the title compound was obtained (10%) as a white solid: mp 59-61° C.; 1H NMR (300 MHz, CDCl3) δ 7.34-7.23 (m, 2H), 7.12 (d, 1H), 7.04-6.96 (m, 2H), 6.89 (d, 1H), 6.75 (s, 1H), 6.50 (s, 1H), 6.41(s, 1H), 5.10-4.86 (m, 3H), 4.66 (d, 1H), 4.16-3.94 (m, 2H), 2.68-2.38 (m, 2H), 1.90-1.60 (m, 3H), 1.40 (s, 10H), 1.27-1.21 (m, 1H); MS (ES+) m/z 591.2 (M+23).

reactant | tert-butyl 3-(2′-oxo-1′,2′-dihydrospiro[1-benzofuran-3,3′-indol]-5-yl)piperidine-1-carboxylate | O=C1NC2=CC=CC=C2C12COC1=C2C=C(C=C1)C1CN(CCC1)C(=O)OC(C)(C)C | C25H28N2O4
reactant | 4-bromoindole | BrC1=C2C=CNC2=CC=C1 | C8H6BrN
reactant | 2-(bromomethyl)-5-(trifluoromethyl)furan | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
reactant | 1-bromopentane | BrCCCCC | C5H11Br
product | tert-butyl 3-(2′-oxo-1′-{[5-(trifluoromethyl)-2-furyl]methyl}-1′,2′-dihydrospiro[1-benzofuran-3,3′-indol]-5-yl)piperidine-1-carboxylate | O=C1N(C2=CC=CC=C2C12COC1=C2C=C(C=C1)C1CN(CCC1)C(=O)OC(C)(C)C)CC=1OC(=CC1)C(F)(F)F | C31H31F3N2O5
